US04070366
2-Ethyl-3-i-butyl-4-methyl-5-carbethoxypyrrole
The crude product, obtained as in Example 74 but using 2-ethyl-4-methyl-5-carbethoxypyrrole and isobutyraldehyde was sublimed (80° C. 1 × 10-4 mm) and recrystallized from aqueous ethanol, m.p. 94°-96° C (44%).

reactant | 2-ethyl-4-methyl-5-carbethoxypyrrole | C(C)C=1NC(=C(C1)C)C(=O)OCC | C10H15NO2
reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
product | 2-Ethyl-3-i-butyl-4-methyl-5-carbethoxypyrrole | C(C)C=1NC(=C(C1CC(C)C)C)C(=O)OCC | C14H23NO2
